US07560552B2
1-(4-nitrophenyl)propan-1-one
A solution of 0.5M ZnCl2 in THF (60 mL, 30 mmol) in THF (20 mL) was treated with 2M ethyl magnesium chloride in THF (15 mL, 30 mmol) dropwise by syringe, cooled with an ice bath for about 10 minutes, stirred at room temperature for about 20 minutes, cooled to 0° C., and treated sequentially with Pd(PPh3)4 (1.73 g, 1.5 mmol) and a solution of 4-nitrobenzoyl chloride (6.12 g, 33 mmol) in THF (20 mL). The mixture was stirred at 0° C. for 40 minutes, diluted with water, adjusted to pH 1 with 2N HCl and extracted three times with ethyl acetate. The combined extracts were washed sequentially with saturated Na2CO3, water, and brine, dried (MgSO4), filtered, and concentrated. The concentrate was purified by flash column chromatography on silica gel with 6:1 hexanes/ethyl acetate to provide 2.17 g (40%) of the desired product as a yellow solid. Rf=0.6 (3:1 hexanes/ethyl acetate).

reactant | ethyl magnesium chloride | 2M | C(C)[Mg]Cl
reactant | 4-nitrobenzoyl chloride | 33 mmol, 6.12 g | [N+](=O)([O-])C1=CC=C(C(=O)Cl)C=C1 | C7H4ClNO3
reactant | HCl | 2N | Cl | ClH
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
catalyst | ZnCl2 | 0.5M | [Cl-].[Cl-].[Zn+2]
catalyst | Pd(PPh3)4 | 1.5 mmol, 1.73 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | THF | 30 mmol, 15 mL | C1CCOC1 | C4H8O
solvent | THF | 30 mmol, 60 mL | C1CCOC1 | C4H8O
product | 1-(4-nitrophenyl)propan-1-one | 2.17 g, 40% | [N+](=O)([O-])C1=CC=C(C=C1)C(CC)=O | C9H9NO3
